US09079928B2
A. Synthesis of Boc-6-aminohexanoic Acid Silver Salt
Boc-6-aminohexanoic acid (0.85 g, 3.68 mmol) was added to water (4 mL) and cooled in ice bath. To this suspension 1N NaOH was added with constant stirring until the pH of solution was about 7 and the mixture became a clear solution. To this solution, silver nitrate (0.63 g, 3.68 mmol) in water (2 mL) was added slowly. The resulting precipitate was filtered and washed with water. The solid was dried in vacuum over phosphorus pentoxide to yield a white solid (1.09 g) (yield, 88%).

reactant | Boc-6-aminohexanoic acid | 3.68 mmol, 0.85 g | C(=O)(OC(C)(C)C)C(C(=O)O)CCCCN | C11H21NO4
reactant | NaOH | [OH-].[Na+]
reactant | silver nitrate | 3.68 mmol, 0.63 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 2 mL | O | H2O
solvent | water | 4 mL | O | H2O
product | Boc-6-aminohexanoic Acid Silver Salt | 1.09 g, 88% | [Ag+].C(=O)(OC(C)(C)C)C(C(=O)[O-])CCCCN | InChI=1S/C11H21NO4.Ag/c1-11(2,3)16-10(15)8(9(13)14)6-4-5-7-12;/h8H,4-7,12H2,1-3H3,(H,13,14);/q;+1/p-1
